US09029544B2
(8) ((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-tert-butylphenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 3-tert.-butylphenylmagnesium bromide. The product is obtained as a diastereomic mixture, which is used directly in the next step.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C=O)I | C23H36INO2Si
reactant | 3-tert.-butylphenylmagnesium bromide | C(C)(C)(C)C=1C=C(C=CC1)[Mg]Br
product | ((S)-5-(tert-butyldimethylsilyloxy)-2-cyclopentyl-4-iodo-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-tert-butylphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(O)C1=CC(=CC=C1)C(C)(C)C)I | C33H50INO2Si
